US07977481B2
5-Acetyl-thiophene-2-carboxylic acid (1 g, 5.87 mmol) was treated with N,N-dimethylformamide dimethylacetal (10 mL) and heated at 120° C. for 16 hours. The mixture was dried in vacuo to give 5-(3-dimethylamino-acryloyl)thiophene-2-carboxylic acid which was taken to the next step. MS: m/z 226 (M+H+).

reactant | 5-Acetyl-thiophene-2-carboxylic acid | 5.87 mmol, 1 g | C(C)(=O)C1=CC=C(S1)C(=O)O | C7H6O3S
reactant | N,N-dimethylformamide dimethylacetal | 10 mL | COC(N(C)C)OC | C5H13NO2
product | 5-(3-dimethylamino-acryloyl)thiophene-2-carboxylic acid | CN(C=CC(=O)C1=CC=C(S1)C(=O)O)C | C10H11NO3S
